US08471005B2
(4-Morpholin-4-yl-phenyl)-[7-(pyridin-4-ylsulfanyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-amine
Into a sealed tube, (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-(4-morpholin-4-yl-phenyl)-amine (0.174 g, 0.465 mmol), Sodium tert-butoxide (134 mg, 1.40 mmol), Copper(I) iodide (8.8 mg, 0.046 mmol), 1,2-Ethanediol (52.1 uL, 0.934 mmol), N,N-Dimethylformamide (6.5 mL, 84 mmol), and Pyridine-4-thiol (0.207 g, 1.86 mmol) were added. The reaction was heated at 135° C. for 2 days. The solvent was removed under vacuum. The reaction was partitioned with water and DCM. The organic was separated, washed with Brine and dried over Na2SO4. The solid was filtered and washed with DCM. The solvent was removed under vacuum to give a yellow solid. The reaction mixture was purified via HPLC reverse phase chromatography with 0.1% TFA in Water and 0.1% TFA in ACN as eluant (5 to 35% ACN). The collected fractions were lyophilized to give a yellow solid. (33 mg, 14%). LCMS (E/I+) 405.7 (M+H). NMR 1H (DMSO-d6)-9.25 (s, 1H), 9.10 (s, 1H), 8.56 (bs, 1H), 7.40 (d, 2H, J=6.68 Hz), 7.33 (d, 2H, J=8.91 Hz), 7.19 (d, 1H, J=4.45 Hz), 7.04 (d, 1H, J=4.45 Hz), 6.70 (d, 2H, J=9.65 Hz), 3.74 (t, 4H, J=5.08 Hz), 302 (t, 4H, J=5.08 Hz).

reactant | (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-(4-morpholin-4-yl-phenyl)-amine | 0.465 mmol, 0.174 g | BrC1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)N2CCOCC2 | C16H16BrN5O
reactant | Sodium tert-butoxide | 1.40 mmol, 134 mg | CC(C)([O-])C.[Na+]
reactant | 1,2-Ethanediol | 0.934 mmol, 52.1 uL | C(CO)O | C2H6O2
reactant | N,N-Dimethylformamide | 84 mmol, 6.5 mL | CN(C=O)C | C3H7NO
reactant | Pyridine-4-thiol | 1.86 mmol, 0.207 g | N1=CC=C(C=C1)S | C5H5NS
catalyst | Copper(I) iodide | 0.046 mmol, 8.8 mg | [Cu]I
product | (4-Morpholin-4-yl-phenyl)-[7-(pyridin-4-ylsulfanyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-amine | N1(CCOCC1)C1=CC=C(C=C1)NC1=NN2C(C=N1)=CC=C2SC2=CC=NC=C2 | C21H20N6OS
